US07517873B2
A mixture of 0.075 g (0.00032 mole) of (rac)-4-chloro-1,3,5,8-tetraaza-tricyclo[8.3.1.0*2,7*]tetradeca-2,4,6-trien-9-one (VI-67), 0.8 mL of dimethylformamide, 0.17 g (0.0005 mole) of cesium carbonate and 0.055 g (0.0004 mole) of iodomethane was stirred at ambient temperature for 2 hours and then concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give (rac)-4-chloro-8-methyl-1,3,5,8-tetraaza-tricyclo[8.3.1.0*2,7*]tetradeca-2,4,6-trien-9-one (VII-67), which was used directly in the next step.

reactant | (rac)-4-chloro-1,3,5,8-tetraaza-tricyclo[8.3.1.0*2,7*]tetradeca-2,4,6-trien-9-one | 0.00032 mole, 0.075 g | ClC=1N=C2N3CCCC(C(NC2=CN1)=O)C3 | C10H11ClN4O
reactant | cesium carbonate | 0.0005 mole, 0.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 0.0004 mole, 0.055 g | IC | CH3I
solvent | dimethylformamide | 0.8 mL | CN(C=O)C | C3H7NO
product | (rac)-4-chloro-8-methyl-1,3,5,8-tetraaza-tricyclo[8.3.1.0*2,7*]tetradeca-2,4,6-trien-9-one | ClC=1N=C2N3CCCC(C(N(C2=CN1)C)=O)C3 | C11H13ClN4O
